US08349828B2
D.i. 1-fluoro-2-benzyloxy-3-nitro-benzene
To a solution of 2-fluoro-6-nitrophenol (25.1 g, 157 mmol) in DMF (430 mL) were added K2CO3 (43.7 g, 313 mmol) and benzyl bromide (21 mL, 172 mmol). The reaction mixture was stirred at 80° C. overnight. After cooling to rt, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure. Water (100 mL) and EA (100 mL) were added and the phases were separated. The aq. layer was extracted once with EA (100 mL) and the combined org. layers were dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was dried under HV to give the title compound as a yellow oil (39.9 g).

reactant | 2-fluoro-6-nitrophenol | 157 mmol, 25.1 g | FC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | K2CO3 | 313 mmol, 43.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 172 mmol, 21 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 430 mL | CN(C)C=O | C3H7NO
product | 1-fluoro-2-benzyloxy-3-nitro-benzene | 39.9 g | FC1=C(C(=CC=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C13H10FNO3
